US06303628B1
*5-bromoacetyl-1-ethoxycarbonyl-2,3-dihydro-1H-indole was prepared from 5-acetyl-1-ethoxycarbonyl-2,3-dihydro-1H-indole (Y. Ishihara et al., J.Chem.. Soc. Perkin Trans.1, 1992, 3401) according to the procedure for preparing 5-bromoacetylindan described in Example 11.

reactant | 5-acetyl-1-ethoxycarbonyl-2,3-dihydro-1H-indole | C(C)(=O)C=1C=C2CCN(C2=CC1)C(=O)OCC | C13H15NO3
reactant | 5-bromoacetylindan | BrCC(=O)C=1C=C2CCCC2=CC1 | C11H11BrO
product | 5-bromoacetyl-1-ethoxycarbonyl-2,3-dihydro-1H-indole | BrCC(=O)C=1C=C2CCN(C2=CC1)C(=O)OCC | C13H14BrNO3
